US08097636B2
2-(3,4-dichlorophenyl)ethylamine (2.82 g, 14.84 mmol) in THF (3 mL) was added to a neat solution of trifluoroacetic anhydride (8.5 mL, 61.15 mmol) dropwise at 0° C. The reaction mixture was stirred for 3 h at room temperature, then quenched by addition of water (10 ml) at 0° C. The solvent was removed under reduced pressure and the crude product was purified by silica gel chromatography (120 g, gradient 5-60% AcOEt in hexanes) to give N-(3,4-dichlorophenethyl)-2,2,2-trifluoroacetamide (2.86 g, 67%) as a white solid. LC/MS ((10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)), m/z: M+1 obs=286.1; tR=1.74 min. 1H NMR (400 MHz, CDCl3) δ ppm: 7.40 (d, J=8.2 Hz, 1H), 7.31 (d, J=2.1 Hz, 1H), 7.03 (dd, J=2.1, 8.2 Hz, 1H), 6.37 (s, 1H), 3.60 (dd, J=6.8, 13.6 Hz, 2H) and 2.86 (dd, J=7.1, 7.1 Hz, 2H).

reactant | 2-(3,4-dichlorophenyl)ethylamine | 14.84 mmol, 2.82 g | ClC=1C=C(C=CC1Cl)CCN | C8H9Cl2N
reactant | trifluoroacetic anhydride | 61.15 mmol, 8.5 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | N-(3,4-dichlorophenethyl)-2,2,2-trifluoroacetamide | 2.86 g, 67% | ClC=1C=C(CCNC(C(F)(F)F)=O)C=CC1Cl | C10H8Cl2F3NO
